US09370515B2
Preparation of thieno[3,2-c]pyridin-7-yl 4-methylbenzenesulfonate
To a solution of thieno[3,2-c]pyridin-7(6H)-one (110 mg, 0.728 mmol, 1.0 equiv) in THF (5.00 mL) was added NaH (35 mg, 0.873 mmol, 1.2 equiv) followed by TsCl (180 mg, 0.946 mmol, 1.3 equiv). The reaction mixture was stirred at rt for 2 h, then quenched with water and extracted with ethyl acetate. Purification by column chromatography using 20% ethyl acetate in hexanes elution gave 180 mg of a white solid, 81%.

reactant | thieno[3,2-c]pyridin-7(6H)-one | 0.728 mmol, 110 mg, 1.0 equiv | S1C=CC=2C=NCC(C21)=O | C7H5NOS
reactant | NaH | 0.873 mmol, 35 mg, 1.2 equiv | [H-].[Na+]
reactant | TsCl | 0.946 mmol, 180 mg, 1.3 equiv | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | THF | 5.00 mL | C1CCOC1 | C4H8O
product | thieno[3,2-c]pyridin-7-yl 4-methylbenzenesulfonate | 180 mg | CC1=CC=C(C=C1)S(=O)(=O)OC=1C2=C(C=NC1)C=CS2 | C14H11NO3S2
